US06268387B1
3-Amino-4-methoxy-N-(3,4-difluorophenyl)-benzamide
Prepared according to the procedure described for Example 1 using oxalyl chloride (3.0 mL, 34.39 mmol), 4-methoxy-3-nitrobenzoic acid (5.00 g, 25.36 mmol), DMF (1.0 mL, 12.92 mmol), and 3,4-difluoroaniline (5.0 mL, 50.42 mmol) to afford the product (6.17 g), m.p. 171-172° C.

reactant | oxalyl chloride | 34.39 mmol, 3.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-methoxy-3-nitrobenzoic acid | 25.36 mmol, 5.00 g | COC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
reactant | DMF | 12.92 mmol, 1.0 mL | CN(C)C=O | C3H7NO
reactant | 3,4-difluoroaniline | 50.42 mmol, 5.0 mL | FC=1C=C(N)C=CC1F | C6H5F2N
product | 3-Amino-4-methoxy-N-(3,4-difluorophenyl)-benzamide | 6.17 g | NC=1C=C(C(=O)NC2=CC(=C(C=C2)F)F)C=CC1OC | C14H12F2N2O2
